US04198409
The reaction mixture was stirred for 1.5 hours after which an aliquot of the reaction product which had been dissolved in MeOH showed there to be one major spot with Rf equal to that of 1-(2-chloro-6-methylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one and two minor spots of very small Rf, one at the origin and one of the same Rf as the starting material amidinourea hydrochloride. The reaction mixture was allowed to stir an additional 0.5 hour and the solid was filtered to yield 1-(2-chloro-6-methylphenyl)-4-methylaminodihydro-1,3,5-triazin-2-one, (EtOAc:MeOH; 9:1). It has the same two impurities as the crude reaction mixture. 7.7 g of the crude mixture was recrystallized from absolute EtOH; melting point 257.5°-258.5° C.

reactant | 1-(2-chloro-6-methylphenyl)-4-methylamino-1,2-dihydro-1,3,5-triazin-2-one | ClC1=C(C(=CC=C1)C)N1C(N=C(N=C1)NC)=O | C11H11ClN4O
reactant | amidinourea hydrochloride | Cl.C(N)(=N)NC(=O)N
solvent | MeOH | CO | CH4O
product | 1-(2-chloro-6-methylphenyl)-4-methylaminodihydro-1,3,5-triazin-2-one | ClC1=C(C(=CC=C1)C)N1C(NC(N=C1)NC)=O | C11H13ClN4O
